* C:\Users\mlste\Documents\ITBA\6 Cuatrimestre\TC\TC_TP1\ej 2\simulacion filtro pasabajos rc 64k.asc
R1 cap in {mc{990, tolr}}
C1 cap 0 {mc{3.9n, tolc}}
V1 in 0 SINE(-0 5 0 0.0001n 0.0001n {0.5*T} {T}) AC 1
.param f={680K} ; frecuencia de entrada
.param T {1/f}
.tran {5*T}
* Filtro pasabajos pasivos RC con frecuencia de corte 64KHz
.param tolr=0.05
.param tolc=0.1
.step param run 1 100 1
.backanno
.end
